US05849764
Step 9.2A 1-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]-2-(3,4,5,6-tetrahydro-2H-[4,4']bipyridinyl-1-yl)ethane-1,2-dione
To a solution of 2-(3,5-dimethylphenyl)-1H-indole (200 mg in 2 mL dry methylene chloride) was added dropwise 0.083 mL oxalyl chloride and the mixture stirred at room temperature. After 1 hour, 213 mg 1,2,3,4,5,6-hexahydro-[4,4']bipyridinyl dihydrochloride was added followed by 1.5 mL methylene chloride and 0.567 mL triethylamine and the mixture continued stirring at room temperature. After 4 hours the reaction was diluted with ethyl acetate and washed sequentially with water, saturated aqueous ammonium chloride and brine. The organic portion was dried over sodium sulfate and the concentrate purified by flash chromatography on silica gel (methylene chloride:methanol, 96:4) to give the title compound (148 mg).

reactant | 2-(3,5-dimethylphenyl)-1H-indole | 2 mL, 200 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1 | C16H15N
reactant | oxalyl chloride | 0.083 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,2,3,4,5,6-hexahydro-[4,4']bipyridinyl dihydrochloride | 213 mg | Cl.Cl.N1CCC(CC1)C1=CC=NC=C1
reactant | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.567 mL | C(C)N(CC)CC | C6H15N
product | 1-[2-(3,5-dimethylphenyl)-1H-indol-3-yl]-2-(3,4,5,6-tetrahydro-2H-[4,4']bipyridinyl-1-yl)ethane-1,2-dione | 148 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=CC=C2C1C(C(=O)N1CCC(CC1)C1=CC=NC=C1)=O | C28H27N3O2
